US06069156
Methyl 1-(2-chlorobenzyl)-2-propylindole-6-carboxylate (400 mg) was prepared from methyl 2-propylindole-6-carboxylate (350 mg) and 2-chlorobenzyl bromide (364 mg) in a similar manner to that of Example 1.

reactant | methyl 2-propylindole-6-carboxylate | 350 mg | C(CC)C=1NC2=CC(=CC=C2C1)C(=O)OC | C13H15NO2
reactant | 2-chlorobenzyl bromide | 364 mg | ClC1=C(CBr)C=CC=C1 | C7H6BrCl
product | Methyl 1-(2-chlorobenzyl)-2-propylindole-6-carboxylate | 400 mg | ClC1=C(CN2C(=CC3=CC=C(C=C23)C(=O)OC)CCC)C=CC=C1 | C20H20ClNO2
